US04886835
Ethyl 4-dimethylamino-2-oxo-3-butenoate (675 g) is added in the course of 3 hours, while the temperature is maintained at approximately 10° C., to a solution, cooled to 10° C. and through which a stream of argon is passed, of triethyloxonium tetrafluoroborate (862 g) in methylene chloride. The reaction medium is then stirred for 5 hours at a temperature in the region of 20° C. The solution of N-(3-ethoxy-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate thereby obtained is stored under an argon atmosphere, and is used immediately in the subsequent syntheses.

reactant | Ethyl 4-dimethylamino-2-oxo-3-butenoate | 675 g | CN(C=CC(C(=O)OCC)=O)C | C8H13NO3
reactant | triethyloxonium tetrafluoroborate | 862 g | F[B-](F)(F)F.C(C)[O+](CC)CC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(3-ethoxy-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | F[B-](F)(F)F.C(C)OC(=CC=[N+](C)C)C(=O)OCC | InChI=1S/C10H18NO3.BF4/c1-5-13-9(7-8-11(3)4)10(12)14-6-2;2-1(3,4)5/h7-8H,5-6H2,1-4H3;/q+1;-1
